US03995056
Another modification of the process comprises reacting 3-bromo-1-propene with methyl 2-hydroxybenzoate to obtain methyl 2'-(3-oxy-1-propene)-benzoate, hydrolyzing the latter to form the free acid, reacting the latter with a chlorinating agent such as thionyl chloride to form the corresponding acid chloride, condensing the latter with cadmium chlorophenyl to form 3-(2'-p-chlorobenzoyl-phenyl)oxy-1-propene, heating the latter to form 3-(3'-p-chlorobenzoyl-2'-hydroxy-phenyl)-1-propene, reacting the latter with an oxidizing atent to form 2-(3'-p-chlorobenzoyl-2'-hydroxy-phenyl)-1-oxo-ethane, condensing the latter with malonic acid, decarboxylating the resulting dicarboxylic acid to form 4-(3'-p-chlorobenzoyl-2'-hydroxy-phenyl)-2-butenoic acid and hydrogenating the latter in the presence of palladium to obtain 4-(3'-p-chlorobenzoyl-2-'-hydroxyphenyl)-butyric acid and finally with an oxidizing agent to form 4-(3'-p-chlorobenzoyl-2',5'-dihydroxy-phenyl)-butyric acid.

reactant | 2-(3'-p-chlorobenzoyl-2'-hydroxy-phenyl)-1-oxo-ethane | ClC1=CC=C(C(=O)C=2C(=C(C=CC2)CC=O)O)C=C1 | C15H11ClO3
reactant | malonic acid | C(CC(=O)O)(=O)O | C3H4O4
product | 4-(3'-p-chlorobenzoyl-2'-hydroxy-phenyl)-2-butenoic acid | ClC1=CC=C(C(=O)C=2C(=C(C=CC2)CC=CC(=O)O)O)C=C1 | C17H13ClO4
